US08912210B2
Step B: tert-Butyl[(3S,5S)-5-(2,3-difluorophenyl)-2-oxopiperidin-3-yl]carbamate
To a solution of methyl 2-[(tert-butoxycarbonyl)amino]-4-cyano-4-(2,3-difluorophenyl)butanoate (11.0 g, 31.0 mmol) in methanol (621 mL) was added palladium hydroxide on carbon powder (20% palladium, with moisture ca 60%) (5.45 g, 3.10 mmol). The mixture was pressurized to 50 psi under an atmosphere of hydrogen. After 90 min, the mixture was filtered and concentrated. Purification by chromatography (Chiral Pak® AD® column, 60% ethanol/hexanes with 0.1% diethylamine) gave the title compound. MS: m/z=349.3 (M+Na). 1H NMR (500 MHz, CDCl3): δ 7.11-6.96 (m, 3H); 5.87 (s, 1H); 5.47 (s, 1H); 4.22-4.16 (m, 1H); 3.63-3.52 (m, 2H); 3.38 (t, J=11.2 Hz, 1H); 2.70 (s, 1H); 2.09 (q, J=12.3 Hz, 1H); 1.45 (s, 9H).

reactant | methyl 2-[(tert-butoxycarbonyl)amino]-4-cyano-4-(2,3-difluorophenyl)butanoate | 31.0 mmol, 11.0 g | C(C)(C)(C)OC(=O)NC(C(=O)OC)CC(C1=C(C(=CC=C1)F)F)C#N | C17H20F2N2O4
solvent | methanol | 621 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 3.10 mmol, 5.45 g | [OH-].[OH-].[Pd+2]
product | tert-Butyl[(3S,5S)-5-(2,3-difluorophenyl)-2-oxopiperidin-3-yl]carbamate | C(C)(C)(C)OC(N[C@@H]1C(NC[C@@H](C1)C1=C(C(=CC=C1)F)F)=O)=O | C16H20F2N2O3
